US08865739B2
2-(4-chlorophenyl)-2-methylpropanehydrazide (9.0 g, 42.5 mmol) was dissolved in dry tetrahydrofuran (100 ml), and 4-methyleneoxetan-2-one (3.9 ml, 51 mmol) was added dropwise. The reaction mixture was stirred at room temperature for 18 hours, then solvent removed under rescued pressure, and ethyl acetate was added. The solution was passed through a 120 g silica gel column eluting with ethyl acetate, to provide clean N′-(2-(4-chlorophenyl)-2-methylpropanoyl)-3-oxobutanehydrazide (12.2 g, 97%) as a viscous golden oil. TLC Rf=0.47 using 100% ethyl acetate as eluent on a glass backed silica gel plate.

reactant | 2-(4-chlorophenyl)-2-methylpropanehydrazide | 42.5 mmol, 9.0 g | ClC1=CC=C(C=C1)C(C(=O)NN)(C)C | C10H13ClN2O
reactant | 4-methyleneoxetan-2-one | 51 mmol, 3.9 ml | C=C1CC(O1)=O | C4H4O2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N′-(2-(4-chlorophenyl)-2-methylpropanoyl)-3-oxobutanehydrazide | 12.2 g, 97% | ClC1=CC=C(C=C1)C(C(=O)NNC(CC(C)=O)=O)(C)C | C14H17ClN2O3
